US07390805B2
Step 40.4: 4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzonitrile
A mixture of 1.27 g (5 mmol) 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile, 1.4 ml (10 mol) triethylamine and 0.955 ml (7.5 mmol) R(+)-1-phenyl-ethylamine in 25 ml dioxane is heated under reflux for 24 h. A second portion of R(+)-1-phenyl-ethylamine (0.32 ml, 2.5 mmol) is added and heating is continued for 24 h. After addition of a third portion of R(+)-1-phenyl-ethylamine (0.32 ml, 2.5 mmol) and additional 24 h the reaction mixture is cooled to 10° C. and the title compound filtered off and washed with dioxane. From the mother liquor a second crop is obtained after concentration of the solution; m.p. 333-336° C.; MS-ES+: (M+H)+=340.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzonitrile | 5 mmol, 1.27 g | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C#N)C=C2 | C13H7ClN4
reactant | triethylamine | 10 mol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzonitrile | C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C#N)C=C2 | C21H17N5
